US07919504B2
(2S,3S)-Methyl 2-(tert-butoxycarbonylamino)-3-(tert-butyldimethylsilyloxy)-3-(4-(trifluoromethyl)phenyl)propanoate:
To a solution of (2S,3S)-methyl 2-amino-3-(tert-butyldimethylsilyloxy)-3-(4-(trifluoromethyl)phenyl)propanoate (2.1 g, 5.5 mmol) in THF (14 mL) was added di-tert-butyl dicarbonate (1.4 g, 6.7 mmol) and sodium carbonate monohydrate (1.4 g, 11.1 mmol) at room temperature. The mixture was stirred overnight and then filtered through a scintered glass funnel. The filtrate was concentrated in vacuo and the residue was purified by chromatography on a short silica gel column(0-10% EtOAc-hexane. The product was obtained as colorless oil (2.6 g, 100%). LCMS (API-ES) m/z: 378 (M+H+).

reactant | (2S,3S)-methyl 2-amino-3-(tert-butyldimethylsilyloxy)-3-(4-(trifluoromethyl)phenyl)propanoate | 5.5 mmol, 2.1 g | N[C@H](C(=O)OC)[C@H](C1=CC=C(C=C1)C(F)(F)F)O[Si](C)(C)C(C)(C)C | C17H26F3NO3Si
reactant | di-tert-butyl dicarbonate | 6.7 mmol, 1.4 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium carbonate monohydrate | 11.1 mmol, 1.4 g | O.C([O-])([O-])=O.[Na+].[Na+]
solvent | THF | 14 mL | C1CCOC1 | C4H8O
product | (2S,3S)-Methyl 2-(tert-butoxycarbonylamino)-3-(tert-butyldimethylsilyloxy)-3-(4-(trifluoromethyl)phenyl)propanoate | 2.6 g, 100% | C(C)(C)(C)OC(=O)N[C@H](C(=O)OC)[C@H](C1=CC=C(C=C1)C(F)(F)F)O[Si](C)(C)C(C)(C)C | C22H34F3NO5Si
